.title kicad schematic

* u31 net-_u23-pad2_ net-_u31-pad2_ d_inverter
* u32 net-_u24-pad2_ net-_u32-pad2_ d_inverter
* u33 net-_u25-pad2_ net-_u33-pad2_ d_inverter
* u29 net-_u20-pad2_ net-_u29-pad2_ d_buffer
* u30 net-_u21-pad2_ net-_u30-pad2_ d_inverter
* u25 net-_u14-pad2_ net-_u25-pad2_ d_buffer
* u26 net-_u16-pad2_ net-_u26-pad2_ d_buffer
* u24 net-_u13-pad2_ net-_u24-pad2_ d_buffer
* u21 net-_u11-pad2_ net-_u21-pad2_ d_buffer
* u23 net-_u12-pad2_ net-_u23-pad2_ d_buffer
* u22 net-_u15-pad2_ net-_u22-pad2_ d_buffer
* u20 net-_u20-pad1_ net-_u20-pad2_ d_inverter
* u28 net-_u19-pad2_ net-_u28-pad2_ d_buffer
* u27 net-_u18-pad2_ net-_u27-pad2_ d_buffer
* u17 i6 i7 i8 i9 net-_u14-pad1_ net-_u16-pad1_ net-_u17-pad7_ net-_u17-pad8_ adc_bridge_4
* u18 net-_u17-pad8_ net-_u18-pad2_ d_inverter
* u19 net-_u17-pad7_ net-_u19-pad2_ d_inverter
* u9 i8 plot_v1
* u8 i7 plot_v1
* u10 i9 plot_v1
* u7 i6 plot_v1
* u35 net-_u29-pad2_ net-_u30-pad2_ net-_u35-pad3_ d_and
* u34 net-_u28-pad2_ net-_u27-pad2_ net-_u34-pad3_ d_nor
* u14 net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u4 i1 i2 i3 i4 i5 net-_u20-pad1_ net-_u11-pad1_ net-_u15-pad1_ net-_u12-pad1_ net-_u13-pad1_ adc_bridge_5
* u16 net-_u16-pad1_ net-_u16-pad2_ d_inverter
* u5 i4 plot_v1
* u6 i5 plot_v1
* u2 i2 plot_v1
* u3 i3 plot_v1
* u1 i1 plot_v1
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ d_inverter
v3 i3 gnd pulse(0 5 0 1n 1n 1m 2m)
v1 i1 gnd pulse(0 5 0 1n 1n 2m 4m)
v4 i4 gnd pulse(0 5 0 1n 1n 4m 8m)
v5 i5 gnd pulse(0 5 0 1n 1n 8m 16m)
v2 i2 gnd pulse(0 5 0 1n 1n 16m 32m)
v9 i9 gnd pulse(0 5 0 1n 1n 32m 64m)
v7 i7 gnd pulse(0 5 0 1n 1n 64m 128m)
v8 i8 gnd pulse(0 5 0 1n 1n 128m 256m)
v6 i6 gnd pulse(0 5 0 1n 1n 256m 512m)
* u38 net-_u22-pad2_ net-_u34-pad3_ net-_u38-pad3_ d_and
* u37 net-_u31-pad2_ net-_u33-pad2_ net-_u37-pad3_ d_and
* u39 net-_u24-pad2_ net-_u33-pad2_ net-_u39-pad3_ d_and
* u40 net-_u26-pad2_ net-_u34-pad3_ net-_u40-pad3_ d_and
* u36 net-_u31-pad2_ net-_u33-pad2_ net-_u36-pad3_ d_and
* u44 net-_u32-pad2_ net-_u22-pad2_ net-_u44-pad3_ d_and
* u41 net-_u27-pad2_ net-_u34-pad3_ net-_u41-pad3_ d_and
* u43 net-_u32-pad2_ net-_u34-pad3_ net-_u43-pad3_ d_and
* u42 net-_u21-pad2_ net-_u31-pad2_ net-_u42-pad3_ d_and
* u45 net-_u31-pad2_ net-_u34-pad3_ net-_u45-pad3_ d_and
* u59 net-_u35-pad3_ net-_u36-pad3_ net-_u59-pad3_ d_and
* u53 net-_u37-pad3_ net-_u38-pad3_ net-_u53-pad3_ d_and
* u64 net-_u63-pad3_ net-_u53-pad3_ net-_u64-pad3_ d_or
* u63 net-_u59-pad3_ net-_u34-pad3_ net-_u63-pad3_ d_and
* u65 net-_u58-pad3_ net-_u40-pad3_ net-_u65-pad3_ d_or
* u58 net-_u39-pad3_ net-_u34-pad3_ net-_u58-pad3_ d_and
* u68 net-_u64-pad3_ net-_u65-pad3_ net-_u68-pad3_ d_or
* u67 net-_u60-pad3_ net-_u61-pad3_ net-_u67-pad3_ d_or
* u60 net-_u54-pad3_ net-_u55-pad3_ net-_u60-pad3_ d_or
* u54 net-_u42-pad3_ net-_u43-pad3_ net-_u54-pad3_ d_and
* u55 net-_u44-pad3_ net-_u45-pad3_ net-_u55-pad3_ d_and
* u61 net-_u46-pad3_ net-_u47-pad3_ net-_u61-pad3_ d_or
* u70 net-_u67-pad3_ net-_u70-pad2_ d_inverter
* u66 net-_u62-pad3_ net-_u66-pad2_ d_inverter
* u62 net-_u56-pad3_ net-_u57-pad3_ net-_u62-pad3_ d_or
* u75 b plot_v1
* u76 a plot_v1
* u74 c plot_v1
* u72 d plot_v1
* u69 net-_u68-pad3_ net-_u41-pad3_ net-_u69-pad3_ d_or
* u71 net-_u69-pad3_ net-_u71-pad2_ d_inverter
* u73 net-_u71-pad2_ net-_u70-pad2_ net-_u66-pad2_ net-_u52-pad3_ a b c d dac_bridge_4
* u56 net-_u48-pad3_ net-_u49-pad3_ net-_u56-pad3_ d_or
* u52 net-_u28-pad2_ net-_u27-pad2_ net-_u52-pad3_ d_nor
* u57 net-_u50-pad3_ net-_u51-pad3_ net-_u57-pad3_ d_or
* u51 net-_u26-pad2_ net-_u34-pad3_ net-_u51-pad3_ d_and
* u49 net-_u24-pad2_ net-_u34-pad3_ net-_u49-pad3_ d_and
* u50 net-_u25-pad2_ net-_u34-pad3_ net-_u50-pad3_ d_and
* u48 net-_u23-pad2_ net-_u34-pad3_ net-_u48-pad3_ d_and
* u46 net-_u25-pad2_ net-_u34-pad3_ net-_u46-pad3_ d_and
* u47 net-_u26-pad2_ net-_u34-pad3_ net-_u47-pad3_ d_and
a1 net-_u23-pad2_ net-_u31-pad2_ u31
a2 net-_u24-pad2_ net-_u32-pad2_ u32
a3 net-_u25-pad2_ net-_u33-pad2_ u33
a4 net-_u20-pad2_ net-_u29-pad2_ u29
a5 net-_u21-pad2_ net-_u30-pad2_ u30
a6 net-_u14-pad2_ net-_u25-pad2_ u25
a7 net-_u16-pad2_ net-_u26-pad2_ u26
a8 net-_u13-pad2_ net-_u24-pad2_ u24
a9 net-_u11-pad2_ net-_u21-pad2_ u21
a10 net-_u12-pad2_ net-_u23-pad2_ u23
a11 net-_u15-pad2_ net-_u22-pad2_ u22
a12 net-_u20-pad1_ net-_u20-pad2_ u20
a13 net-_u19-pad2_ net-_u28-pad2_ u28
a14 net-_u18-pad2_ net-_u27-pad2_ u27
a15 [i6 i7 i8 i9 ] [net-_u14-pad1_ net-_u16-pad1_ net-_u17-pad7_ net-_u17-pad8_ ] u17
a16 net-_u17-pad8_ net-_u18-pad2_ u18
a17 net-_u17-pad7_ net-_u19-pad2_ u19
a18 [net-_u29-pad2_ net-_u30-pad2_ ] net-_u35-pad3_ u35
a19 [net-_u28-pad2_ net-_u27-pad2_ ] net-_u34-pad3_ u34
a20 net-_u14-pad1_ net-_u14-pad2_ u14
a21 [i1 i2 i3 i4 i5 ] [net-_u20-pad1_ net-_u11-pad1_ net-_u15-pad1_ net-_u12-pad1_ net-_u13-pad1_ ] u4
a22 net-_u16-pad1_ net-_u16-pad2_ u16
a23 net-_u11-pad1_ net-_u11-pad2_ u11
a24 net-_u15-pad1_ net-_u15-pad2_ u15
a25 net-_u13-pad1_ net-_u13-pad2_ u13
a26 net-_u12-pad1_ net-_u12-pad2_ u12
a27 [net-_u22-pad2_ net-_u34-pad3_ ] net-_u38-pad3_ u38
a28 [net-_u31-pad2_ net-_u33-pad2_ ] net-_u37-pad3_ u37
a29 [net-_u24-pad2_ net-_u33-pad2_ ] net-_u39-pad3_ u39
a30 [net-_u26-pad2_ net-_u34-pad3_ ] net-_u40-pad3_ u40
a31 [net-_u31-pad2_ net-_u33-pad2_ ] net-_u36-pad3_ u36
a32 [net-_u32-pad2_ net-_u22-pad2_ ] net-_u44-pad3_ u44
a33 [net-_u27-pad2_ net-_u34-pad3_ ] net-_u41-pad3_ u41
a34 [net-_u32-pad2_ net-_u34-pad3_ ] net-_u43-pad3_ u43
a35 [net-_u21-pad2_ net-_u31-pad2_ ] net-_u42-pad3_ u42
a36 [net-_u31-pad2_ net-_u34-pad3_ ] net-_u45-pad3_ u45
a37 [net-_u35-pad3_ net-_u36-pad3_ ] net-_u59-pad3_ u59
a38 [net-_u37-pad3_ net-_u38-pad3_ ] net-_u53-pad3_ u53
a39 [net-_u63-pad3_ net-_u53-pad3_ ] net-_u64-pad3_ u64
a40 [net-_u59-pad3_ net-_u34-pad3_ ] net-_u63-pad3_ u63
a41 [net-_u58-pad3_ net-_u40-pad3_ ] net-_u65-pad3_ u65
a42 [net-_u39-pad3_ net-_u34-pad3_ ] net-_u58-pad3_ u58
a43 [net-_u64-pad3_ net-_u65-pad3_ ] net-_u68-pad3_ u68
a44 [net-_u60-pad3_ net-_u61-pad3_ ] net-_u67-pad3_ u67
a45 [net-_u54-pad3_ net-_u55-pad3_ ] net-_u60-pad3_ u60
a46 [net-_u42-pad3_ net-_u43-pad3_ ] net-_u54-pad3_ u54
a47 [net-_u44-pad3_ net-_u45-pad3_ ] net-_u55-pad3_ u55
a48 [net-_u46-pad3_ net-_u47-pad3_ ] net-_u61-pad3_ u61
a49 net-_u67-pad3_ net-_u70-pad2_ u70
a50 net-_u62-pad3_ net-_u66-pad2_ u66
a51 [net-_u56-pad3_ net-_u57-pad3_ ] net-_u62-pad3_ u62
a52 [net-_u68-pad3_ net-_u41-pad3_ ] net-_u69-pad3_ u69
a53 net-_u69-pad3_ net-_u71-pad2_ u71
a54 [net-_u71-pad2_ net-_u70-pad2_ net-_u66-pad2_ net-_u52-pad3_ ] [a b c d ] u73
a55 [net-_u48-pad3_ net-_u49-pad3_ ] net-_u56-pad3_ u56
a56 [net-_u28-pad2_ net-_u27-pad2_ ] net-_u52-pad3_ u52
a57 [net-_u50-pad3_ net-_u51-pad3_ ] net-_u57-pad3_ u57
a58 [net-_u26-pad2_ net-_u34-pad3_ ] net-_u51-pad3_ u51
a59 [net-_u24-pad2_ net-_u34-pad3_ ] net-_u49-pad3_ u49
a60 [net-_u25-pad2_ net-_u34-pad3_ ] net-_u50-pad3_ u50
a61 [net-_u23-pad2_ net-_u34-pad3_ ] net-_u48-pad3_ u48
a62 [net-_u25-pad2_ net-_u34-pad3_ ] net-_u46-pad3_ u46
a63 [net-_u26-pad2_ net-_u34-pad3_ ] net-_u47-pad3_ u47
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u29 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u25 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u26 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u24 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u21 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u23 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u22 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u28 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u27 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_4, Ngspice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u34 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_5, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u43 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u59 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u53 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u64 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u63 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u65 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u58 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u68 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u67 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u60 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u54 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u55 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u61 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u70 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u66 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u62 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u69 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u71 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u73 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u56 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u52 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u57 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u51 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u49 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u50 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u48 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u46 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u47 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(i8)
plot v(i7)
plot v(i9)
plot v(i6)
plot v(i4)
plot v(i5)
plot v(i2)
plot v(i3)
plot v(i1)
plot v(b)
plot v(a)
plot v(c)
plot v(d)
.endc
.end
